US04544501
A solution containing 0.025 moles of P,P-bis(2,2-dimethyl-1-aziridinyl)phosphinyl chloride in about 170 milliliters of THF was prepared in accordance with Example 1, chilled to -40° C. and treated, by slow dropwise addition, with a solution containing 0.026 moles of 3-dimethylaminopropylamine, in 25 milliliters of THF. The resulting slurry was stirred overnight at ambient temperature, filtered, the filtrate was concentrated by rotary evaporation, and vacuum distilled at 119° C./0.45 millimeter of mercury to produce a 40% yield of P,P-bis(2,2-dimethyl-1-aziridinyl)-N-(3-dimethylaminopropyl)phosphinic amide. NMR characterization confirmed the product was 99% pure. Elemental analysis confirmed the structure contained the following:

reactant | P,P-bis(2,2-dimethyl-1-aziridinyl)phosphinyl chloride | 0.025 moles | CC1(N(C1)P(=O)(N1C(C1)(C)C)Cl)C | C8H16ClN2OP
reactant | 3-dimethylaminopropylamine | 0.026 moles | CN(CCCN)C | C5H14N2
solvent | THF | about 170 milliliters | C1CCOC1 | C4H8O
solvent | THF | 25 milliliters | C1CCOC1 | C4H8O
product | P,P-bis(2,2-dimethyl-1-aziridinyl)-N-(3-dimethylaminopropyl)phosphinic amide | 40% yield | CC1(N(C1)P(NCCCN(C)C)(=O)N1C(C1)(C)C)C | C13H29N4OP
